### PR TITLE
[Merged by Bors] - feat(Analysis/Normed): add `LinearMap.extendOfIsometry`

### PR DESCRIPTION
**Pull request by TJHeeringa**
Adds `LinearMap.extendOfIsometry`, the extention of a linear map `f : E →ₛₗ[𝕜] F` between normed spaces to a linear isometry `Eₗ →ₗᵢ[𝕜] Fₗ` between Banach spaces with a dense map `e₁ : E →ₗ[𝕜] Eₗ`, a linear map `e₂ : F →ₗ[𝕜] Fₗ` and the corresponding norm estimate.

---

`LinearEquiv` and `ContinuousLinearMap` have this extension, but a corresponding one for `LinearIsometry` does not exist.

I called this `extendOfIsometry` because `LinearIsometry.extend` map already [exists](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/PiL2.html#LinearIsometry.extend) and `LinearEquiv` has a similar map. That map is the special case of `LinearIsometry.extendOfIsometry` when the input space is a submodule of a finite dimensional inner product space. A case could be made for calling `LinearIsometry.extendOfIsometry` `LinearIsometry.extend` and renaming the existing `LinearIsometry.extendOfIsometry` to `LinearIsometry.extendOfFin`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 1]
```diff
@@ -358,3 +362,39 @@ theorem extendOfIsometry_symm_eq (h_dense₁ : DenseRange e₁) (h_dense₂ : De
...
+  [NormedAddCommGroup Eₗ] [NormedSpace 𝕜 Eₗ]
+  [NormedAddCommGroup Fₗ] [NormedSpace 𝕜₂ Fₗ] [CompleteSpace Fₗ]
+
+variable {σ₁₂ : 𝕜 →+* 𝕜₂}
+variable (f : E →ₛₗᵢ[σ₁₂] F) (e₁ : E →ₗ[𝕜] Eₗ) (e₂ : F →ₗ[𝕜₂] Fₗ)
+
+/-- Extend a linear isometry `f : E →ₛₗᵢ[σ₁₂] F` to a linear isometry `Eₗ →ₛₗᵢ[σ₁₂] Fₗ` between
+Banach spaces, using a dense linear map `e₁ : E →ₗ[𝕜] Eₗ` and a linear map `e₂ : F →ₗ[𝕜₂] Fₗ`
+together with the norm equality `‖e₂ (f x)‖ = ‖e₁ x‖` for all `x : E`. -/
+def extendOfIsometry (h_dense₁ : DenseRange e₁) (h_norm : ∀ x, ‖e₂ (f x)‖ = ‖e₁ x‖) :
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Operator/Extend.lean]: I think this should be called `extendOfNorm`, following similar convention as `LinearMap.extendOfNorm`? The `OfNorm` here refers to the parameter `h_norm`, which is a hypothesis of some norms

Comment (TJHeeringa) [reply Mathlib/Analysis/Normed/Operator/Extend.lean]: I don't think I agree with this. By the same reasoning the current name is correct, because [`LinearEquiv.extendOfIsometry`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Operator/Extend.html#LinearEquiv.extendOfIsometry) has the exact same requirement `(h_norm : ∀ x, ‖e₂ (f x)‖ = ‖e₁ x‖)`.

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 2]
```diff
@@ -358,3 +362,39 @@ theorem extendOfIsometry_symm_eq (h_dense₁ : DenseRange e₁) (h_dense₂ : De
 end extendOfIsometry
 
 end LinearEquiv
+
+namespace LinearIsometry
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/Extend.lean]: You are not using that `f` is an isometry, so it should be in the namespace `LinearMap` and then please also move it up under `extendOfNorm`

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 3]
```diff
@@ -358,3 +362,39 @@ theorem extendOfIsometry_symm_eq (h_dense₁ : DenseRange e₁) (h_dense₂ : De
...
+Banach spaces, using a dense linear map `e₁ : E →ₗ[𝕜] Eₗ` and a linear map `e₂ : F →ₗ[𝕜₂] Fₗ`
+together with the norm equality `‖e₂ (f x)‖ = ‖e₁ x‖` for all `x : E`. -/
+def extendOfIsometry (h_dense₁ : DenseRange e₁) (h_norm : ∀ x, ‖e₂ (f x)‖ = ‖e₁ x‖) :
+    Eₗ →ₛₗᵢ[σ₁₂] Fₗ where
+  toLinearMap := (e₂ ∘ₛₗ f.toLinearMap).extendOfNorm e₁
+  norm_map' := by
+    refine h_dense₁.induction ?_ (isClosed_eq (by fun_prop) continuous_norm)
+    rintro x ⟨y, rfl⟩
+    convert! h_norm y
+    apply LinearMap.extendOfNorm_eq h_dense₁ (by use 1; simp [h_norm])
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/Extend.lean]:
```suggestion
    norm_cast
    rw [LinearMap.extendOfNorm_eq h_dense₁ (by use 1; simp [h_norm]), comp_apply, h_norm y]
```
works after moving to `LinearMap` namespace

File: Mathlib/Analysis/Normed/Operator/Extend.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Analysis/Normed/Operator/Extend.lean]: Got it. That makes sense
(btw I don't have permission to resolve conversation. I think you can do it)

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 4]
```diff
@@ -232,6 +236,42 @@ theorem opNorm_extendOfNorm_le (h_dense : DenseRange e) {C : ℝ} (hC : 0 ≤ C)
...
+  [NormedAddCommGroup E] [Module 𝕜 E]
+  [NormedAddCommGroup F] [Module 𝕜₂ F]
+  [NormedAddCommGroup Eₗ] [NormedSpace 𝕜 Eₗ]
+  [NormedAddCommGroup Fₗ] [NormedSpace 𝕜₂ Fₗ] [CompleteSpace Fₗ]
+
+variable {σ₁₂ : 𝕜 →+* 𝕜₂}
+variable (f : E →ₛₗ[σ₁₂] F) (e₁ : E →ₗ[𝕜] Eₗ) (e₂ : F →ₗ[𝕜₂] Fₗ)
+
+/-- Extend a linear isometry `f : E →ₛₗᵢ[σ₁₂] F` to a linear isometry `Eₗ →ₛₗᵢ[σ₁₂] Fₗ` between
+Banach spaces, using a dense linear map `e₁ : E →ₗ[𝕜] Eₗ` and a linear map `e₂ : F →ₗ[𝕜₂] Fₗ`
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/Extend.lean]:
```suggestion
/-- Extend a linear map `f : E →ₛₗ[σ₁₂] F` to a linear isometry `Eₗ →ₛₗᵢ[σ₁₂] Fₗ` between
Banach spaces, using a dense linear map `e₁ : E →ₗ[𝕜] Eₗ` and a linear map `e₂ : F →ₗ[𝕜₂] Fₗ`
```

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 5]
```diff
@@ -29,6 +29,10 @@ Moreover, we can extend a linear equivalence:
   `Eₗ →ₗᵢ[𝕜] Fₗ`, where `e₁ : E →ₗ[𝕜] Eₗ` and `e₂ : F →ₗ[𝕜] Fₗ` are dense maps into Banach spaces
   and `f` preserves the norm.
 
+Finally, we can extend a linear isometry:
+* `LinearIsometry.extendOfIsometry`: Extend a linear isometry `f : E ≃ₗᵢ[𝕜] F` between normed spaces
+  to a linear isometry `Eₗ →ₗᵢ[𝕜] Fₗ` between Banach spaces with a dense map `e₁ : E →ₗ[𝕜] Eₗ`, a
+  linear map `e₂ : F →ₗ[𝕜] Fₗ` and the corresponding norm estimates.
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/Extend.lean]:
```suggestion
Finally, we can extend a linear isometry:
* `LinearMap.extendOfIsometry`: Extend a linear map `f : E →ₗ[𝕜] F` between normed spaces
  to a linear isometry `Eₗ →ₗᵢ[𝕜] Fₗ` between Banach spaces with a dense map `e₁ : E →ₗ[𝕜] Eₗ`, a
  linear map `e₂ : F →ₗ[𝕜] Fₗ` and the corresponding norm estimate.
```
and move it up

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 6]
```diff
@@ -12,7 +12,7 @@ public import Mathlib.LinearAlgebra.Isomorphisms
 
 # Extension of continuous linear maps on Banach spaces
 
-In this file we provide two different ways to extend a continuous linear map defined on a dense
+In this file we provide three different ways to extend a continuous linear map defined on a dense
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/Extend.lean]:
```suggestion
In this file we provide several different ways to extend a continuous linear map defined on a dense
```
The two refers to `LinearMap`, but that was when there was only `extend` and `extendOfNorm`, now it seems silly to distinguish between `LinearMap` and `LinearEquiv`

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 7]
```diff
@@ -232,6 +236,42 @@ theorem opNorm_extendOfNorm_le (h_dense : DenseRange e) {C : ℝ} (hC : 0 ≤ C)
...
 end NormedField
 
+section extendOfIsometry
+
+variable [NormedField 𝕜] [NormedField 𝕜₂]
+  [NormedAddCommGroup E] [Module 𝕜 E]
+  [NormedAddCommGroup F] [Module 𝕜₂ F]
+  [NormedAddCommGroup Eₗ] [NormedSpace 𝕜 Eₗ]
+  [NormedAddCommGroup Fₗ] [NormedSpace 𝕜₂ Fₗ] [CompleteSpace Fₗ]
+
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/Extend.lean]:
```suggestion
variable [NormedDivisionRing 𝕜] [NormedDivisionRing 𝕜₂]
  [AddCommGroup E] [Module 𝕜 E]
  [AddCommGroup F] [Module 𝕜₂ F]
  [NormedAddCommGroup Eₗ] [Module 𝕜 Eₗ] [IsBoundedSMul 𝕜 Eₗ]
  [NormedAddCommGroup Fₗ] [Module 𝕜₂ Fₗ] [IsBoundedSMul 𝕜₂ Fₗ] [CompleteSpace Fₗ]
```

File: Mathlib/Analysis/Normed/Operator/Extend.lean (hunk 5 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/Normed/Operator/Extend.lean]: Should we also remove the `Moreover, we can extend a linear equivalence:`?

File: Mathlib/Analysis/Normed/Operator/Extend.lean (hunk 7 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/Normed/Operator/Extend.lean]: Is there a cleverer way like #min_imports for finding out whether the binders can be relaxed? Or is this just manual checking?

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/Normed/Operator/Extend.lean (hunk 5 above)
Comment (mcdoll) [reply Mathlib/Analysis/Normed/Operator/Extend.lean]: I think that is fine

File: Mathlib/Analysis/Normed/Operator/Extend.lean (hunk 4 above)
Comment (mcdoll) [reply Mathlib/Analysis/Normed/Operator/Extend.lean]: You might have forgot a commit?

Comment (TJHeeringa) [reply Mathlib/Analysis/Normed/Operator/Extend.lean]: Oops😅

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 8]
```diff
@@ -232,6 +232,41 @@ theorem opNorm_extendOfNorm_le (h_dense : DenseRange e) {C : ℝ} (hC : 0 ≤ C)
...
+  [NormedAddCommGroup Fₗ] [Module 𝕜₂ Fₗ] [IsBoundedSMul 𝕜₂ Fₗ] [CompleteSpace Fₗ]
+variable {σ₁₂ : 𝕜 →+* 𝕜₂}
+variable (f : E →ₛₗ[σ₁₂] F) (e₁ : E →ₗ[𝕜] Eₗ) (e₂ : F →ₗ[𝕜₂] Fₗ)
+
+/-- Extend a linear map `f : E →ₛₗ[σ₁₂] F` to a linear isometry `Eₗ →ₛₗᵢ[σ₁₂] Fₗ` between
+Banach spaces, using a dense linear map `e₁ : E →ₗ[𝕜] Eₗ` and a linear map `e₂ : F →ₗ[𝕜₂] Fₗ`
+together with the norm equality `‖e₂ (f x)‖ = ‖e₁ x‖` for all `x : E`. -/
+def extendOfIsometry (h_dense₁ : DenseRange e₁) (h_norm : ∀ x, ‖e₂ (f x)‖ = ‖e₁ x‖) :
+    Eₗ →ₛₗᵢ[σ₁₂] Fₗ where
+  toLinearMap := (e₂ ∘ₛₗ f).extendOfNorm e₁
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/Extend.lean]: Sorry I didn't notice this earlier: I don't see why `e₂` is necessary in this definition. If I see it correctly, then `e₂` and `f` always appear as a composition, so `f` should be mapping from `E` to `Fₗ`.

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 9]
```diff
@@ -232,6 +232,41 @@ theorem opNorm_extendOfNorm_le (h_dense : DenseRange e) {C : ℝ} (hC : 0 ≤ C)
...
+
+theorem extendOfIsometry_apply (h_dense₁ : DenseRange e₁)
+    (h_norm : ∀ x, ‖e₂ (f x)‖ = ‖e₁ x‖) (x : Eₗ) :
+    f.extendOfIsometry e₁ e₂ h_dense₁ h_norm x = (e₂ ∘ₛₗ f).extendOfNorm e₁ x := rfl
+
+@[simp]
+theorem extendOfIsometry_eq (h_dense₁ : DenseRange e₁) (h_norm : ∀ x, ‖e₂ (f x)‖ = ‖e₁ x‖) (x : E) :
+    f.extendOfIsometry e₁ e₂ h_dense₁ h_norm (e₁ x) = e₂ (f x) :=
+  LinearMap.extendOfNorm_eq h_dense₁ ⟨1, fun x ↦ by simp [h_norm x]⟩ x
+
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/Extend.lean:269]: Could you also add the uniqueness statement?

File: Mathlib/Analysis/Normed/Operator/Extend.lean (hunk 8 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/Normed/Operator/Extend.lean]: Good spotting.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 10]
```diff
@@ -232,6 +232,46 @@ theorem opNorm_extendOfNorm_le (h_dense : DenseRange e) {C : ℝ} (hC : 0 ≤ C)
...
+def extendOfIsometry (h_dense : DenseRange e) (h_norm : ∀ x, ‖f x‖ = ‖e x‖) :
+    Eₗ →ₛₗᵢ[σ₁₂] F where
+  toLinearMap := f.extendOfNorm e
+  norm_map' := by
+    refine h_dense.induction ?_ (isClosed_eq (by fun_prop) continuous_norm)
+    rintro x ⟨y, rfl⟩
+    norm_cast
+    rw [LinearMap.extendOfNorm_eq h_dense (by use 1; simp [h_norm]), h_norm y]
+
+variable {f e₁ e₂}
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/Extend.lean]:
```suggestion
variable {f e}
```
But I personally find it clearer to write `{}` on l.242 and then `variable (f e)` before the `def`

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 11]
```diff
@@ -232,6 +232,46 @@ theorem opNorm_extendOfNorm_le (h_dense : DenseRange e) {C : ℝ} (hC : 0 ≤ C)
...
+variable [NormedDivisionRing 𝕜] [NormedDivisionRing 𝕜₂]
+  [AddCommGroup E] [Module 𝕜 E]
+  [NormedAddCommGroup Eₗ] [Module 𝕜 Eₗ] [IsBoundedSMul 𝕜 Eₗ]
+  [NormedAddCommGroup F] [Module 𝕜₂ F] [IsBoundedSMul 𝕜₂ F] [CompleteSpace F]
+variable {σ₁₂ : 𝕜 →+* 𝕜₂}
+variable (f : E →ₛₗ[σ₁₂] F) (e : E →ₗ[𝕜] Eₗ)
+
+/-- Extend a linear map `f : E →ₛₗ[σ₁₂] F` to a linear isometry `Eₗ →ₛₗᵢ[σ₁₂] F` between
+Banach spaces, using a dense linear map `e : E →ₗ[𝕜] Eₗ` together with the norm equality
+`‖f x‖ = ‖e₁ x‖` for all `x : E`. -/
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/Extend.lean]:
```suggestion
`‖f x‖ = ‖e x‖` for all `x : E`. -/
```

File: Mathlib/Analysis/Normed/Operator/Extend.lean (hunk 10 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/Normed/Operator/Extend.lean]: I realized `e` can be always implicit due to `h_dense`, and `f` is always explicit in the other theorems and lemmas. So, I made it that.

**Comment by TJHeeringa** [comment]
-awaiting-author

**Comment by mcdoll** [comment]
Thanks!
I've noticed that the implicitness of the arguments is a bit all over the place, but fixing that is not in scope for this PR.
maintainer merge

File: Mathlib/Analysis/Normed/Operator/Extend.lean [hunk 12]
```diff
@@ -232,6 +232,43 @@ theorem opNorm_extendOfNorm_le (h_dense : DenseRange e) {C : ℝ} (hC : 0 ≤ C)
...
+  [AddCommGroup E] [Module 𝕜 E]
+  [NormedAddCommGroup Eₗ] [Module 𝕜 Eₗ] [IsBoundedSMul 𝕜 Eₗ]
+  [NormedAddCommGroup F] [Module 𝕜₂ F] [IsBoundedSMul 𝕜₂ F] [CompleteSpace F]
+variable {σ₁₂ : 𝕜 →+* 𝕜₂} (f : E →ₛₗ[σ₁₂] F) {e : E →ₗ[𝕜] Eₗ}
+
+/-- Extend a linear map `f : E →ₛₗ[σ₁₂] F` to a linear isometry `Eₗ →ₛₗᵢ[σ₁₂] F` between
+Banach spaces, using a dense linear map `e : E →ₗ[𝕜] Eₗ` together with the norm equality
+`‖f x‖ = ‖e x‖` for all `x : E`. -/
+def extendOfIsometry (h_dense : DenseRange e) (h_norm : ∀ x, ‖f x‖ = ‖e x‖) :
+    Eₗ →ₛₗᵢ[σ₁₂] F where
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Operator/Extend.lean:247]: Just recording here for future reviewers: I was originally skeptical that this takes an unbundled linear isometry as input as opposed to `f : E →ₛₗᵢ[σ₁₂] F`, but I have decided that it probably makes more sense to have the unbundled form for the applications where this would arise (i.e., it's easier to simply provide the linear map on the subspace, then prove the norm condition separately).

**Review by j-loreaux — COMMENTED** [review]
Please add the lemma `toContinuousLinearMap_extendOfIsometry` which says `(f.extendOfIsometry h_dense h_norm).toContinuousLinearMap = f.extendOfNorm e` and uses `extendOfNorm_unique` for the proof.

bors d+

File: Mathlib/Analysis/Normed/Operator/Extend.lean (hunk 12 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Operator/Extend.lean:247]: oh, and an even better reason that Moritz just pointed out to me: `E` need not have a norm. (and I also misread, it's not `‖f x‖ = ‖x‖`, it's `‖f x‖ = ‖e x‖`.)
